US07189850B2
a) 1-(4-Chloro-phenyl)-1,3,8-triaza-spiro[4.5]decan-4-one
To a mixture of 1.5 g (2.97 mmol) 8-(3,5-bis-trifluoromethyl-benzoyl)-1-(4-chloro-phenyl)-1,3,8-triaza-spiro[4.5]decan-4-one in 4.5 ml THF, 4.5 ml water and 4.5 ml methanol were added 0.85 g (35.6 mmol) powdered LiOH. The reaction mixture was stirred at ambient temperature for 48 hours. The solvent was removed in vacuo. The residue was stirred in water. The resulting solid was filtered, washed with water and dried to provide the title compound (0.55 g) as a colorless solid; MS (ISP): 266.1 MH+.

reactant | 8-(3,5-bis-trifluoromethyl-benzoyl)-1-(4-chloro-phenyl)-1,3,8-triaza-spiro[4.5]decan-4-one | 2.97 mmol, 1.5 g | FC(C=1C=C(C(=O)N2CCC3(C(NCN3C3=CC=C(C=C3)Cl)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C22H18ClF6N3O2
reactant | LiOH | [Li+].[OH-]
solvent | THF | 4.5 ml | C1CCOC1 | C4H8O
solvent | water | 4.5 ml | O | H2O
solvent | methanol | 4.5 ml | CO | CH4O
product | 1-(4-Chloro-phenyl)-1,3,8-triaza-spiro[4.5]decan-4-one | 0.55 g | ClC1=CC=C(C=C1)N1CNC(C12CCNCC2)=O | C13H16ClN3O
